US08198296B2
To a mixture of 3-(tert-butoxycarbonyl)-3-azabicyclo[3.3.0]octane-7-carboxylic acid (0.930 g, 3.65 mmol), N,O-dimethylhydroxylamine hydrochloride (0.71 g, 7.3 mmol) and diisopropylethylamine (DIPEA) (3.24 mL, 18.3 mmol) in N,N-dimethylformamide (DMF) (50 mL) was added O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HBTU) (2.07 g, 5.48 mmol), and the mixture was stirred at ambient temperature overnight. The reaction was poured into saturated aqueous sodium bicarbonate (100 mL) and extracted with ethyl acetate (100 mL). The organic layer was washed with water (200 mL), dried over anhydrous sodium sulfate, concentrated by rotary evaporation and purified by silica gel flash column chromatography, to obtain 0.94 g (86% yield) of the N-methoxy-N-methyl-3-(tert-butoxycarbonyl)-3-azabicyclo[3.3.0]octane-7-carboxamide, as an oil (1H NMR (CDCl3, 300 MHz): δ 3.69 (s, 3H), 3.6-3.42 (m, 2H), 3.36-3.05 (m, 3H), 3.18 (s, 3H), 2.82-2.57 (m, 2H), 2.08-2.02 (m, 2H), 1.82-1.65 (m, 2H), 1.46 (d, 9H); MS (m/z: 299 (M+1), 243 (M+1-56)).

reactant | 3-(tert-butoxycarbonyl)-3-azabicyclo[3.3.0]octane-7-carboxylic acid | 3.65 mmol, 0.930 g | C(C)(C)(C)OC(=O)N1CC2CC(CC2C1)C(=O)O | C13H21NO4
reactant | N,O-dimethylhydroxylamine hydrochloride | 7.3 mmol, 0.71 g | Cl.CNOC
reactant | diisopropylethylamine | 18.3 mmol, 3.24 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 5.48 mmol, 2.07 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | N-methoxy-N-methyl-3-(tert-butoxycarbonyl)-3-azabicyclo[3.3.0]octane-7-carboxamide | 0.94 g, 86% yield | CON(C(=O)C1CC2CN(CC2C1)C(=O)OC(C)(C)C)C | C15H26N2O4
